US07759369B2
6-(Hydroxymethyl)-5-methyl-2-pyridinecarbonitrile
Potassium carbonate (65 mg) was added to a solution of (6-cyano-3-methyl-2-pyridinyl)methyl acetate (2.89 g) in methanol (20 ml) and the mixture stirred under argon at ambient temperature for 2.5 hours. It was concentrated in vacuo to ca. ½ volume and water (40 ml) added. The mixture was neutralized with 5% acetic acid (1.2 ml) and extracted with dichloromethane (40 ml then 2×20 ml). The combined extracts were washed with brine (20 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by Biotage chromatography eluting with 2:1 hexane:ethyl acetate to afford the title compound (1.45 g, 64%) as a pale buff solid. LC/MS [MH+]=149, RT=1.46 min.

reactant | Potassium carbonate | 65 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (6-cyano-3-methyl-2-pyridinyl)methyl acetate | 2.89 g | C(C)(=O)OCC1=NC(=CC=C1C)C#N | C10H10N2O2
solvent | methanol | 20 ml | CO | CH4O
product | 6-(Hydroxymethyl)-5-methyl-2-pyridinecarbonitrile | 1.45 g, 64% | OCC1=C(C=CC(=N1)C#N)C | C8H8N2O
